US09447090B2
A mixture of 1 g of N-methyl-2-nitrobenzenesulfonamide, 2.3 g of tert-butyl [(1R)-2-hydroxy-1-phenylethyl]carbamate, 2.5 g of triphenylphosphine, 4.2 ml of diethyl azodicarboxylate, and 40 ml of toluene was stirred at 80° C. for 2 hours, and the solvent was evaporated under reduced pressure. To a solution of the obtained residue in chloroform was added silica gel, followed by filtration, and the filtrate was concentrated under reduced pressure. To a solution of the obtained residue in 3 ml of dichloromethane was added 3 ml of trifluoroacetic acid, followed by stirring for 1 hour. The solvent was evaporated under reduced pressure, and an aqueous sodium carbonate solution and chloroform were then added thereto to carry out a layer separation operation. The organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 890 mg of N-[(2R)-2-amino-2-phenylethyl]-N-methyl-2-nitrobenzenesulfonamide.

reactant | N-methyl-2-nitrobenzenesulfonamide | 1 g | CNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C7H8N2O4S
reactant | tert-butyl [(1R)-2-hydroxy-1-phenylethyl]carbamate | 2.3 g | OC[C@@H](C1=CC=CC=C1)NC(OC(C)(C)C)=O | C13H19NO3
reactant | triphenylphosphine | 2.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 4.2 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | N-[(2R)-2-amino-2-phenylethyl]-N-methyl-2-nitrobenzenesulfonamide | 890 mg | N[C@@H](CN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C)C1=CC=CC=C1 | C15H17N3O4S
